US06005000
5-(3-Butynyl)-3,4-dihydroxy-2(5H)-furanone (0.17 g, 1.0 mmol) and 300 μL (2.0 mmol) of 2-iodonaphthalene were coupled in an analogous fashion as described for the synthesis of 3,4-dihydroxy-5-[(4-phenyl)-3-butynyl]-2(5H)-furanone. The residue was purified over silica gel using CHCl3 /MeOH/AcOH (96/3/1) as eluant and dried at 0.05 mm Hg at 58° C. for 2 h to provide 230 mg (75%) of 3,4-dihydroxy-5-[4-(2-naphthyl)-3-butynyl]-2(5H)-furanone as a yellow wax: 1H NMR (acetone-d6) δ 8.4-8.3 (m, 1H), 7.96-7.88 (m, 2H), 7.70-7.43 (m, 4H), 4.98 (dd, J=3.4, 8.3 Hz, 1H), 2.82-2.75 (m, 2H), 2.48-2.29 (m, 1H), 2.00-1.85 (m, 1H); Anal Calcd for C18H14O4 +0.5 H2O: C, 71.27; H, 4.98. Found: C, 71.33; H, 4.87.

reactant | 5-(3-Butynyl)-3,4-dihydroxy-2(5H)-furanone | 1.0 mmol, 0.17 g | C(CC#C)C1C(=C(C(O1)=O)O)O | C8H8O4
reactant | 2-iodonaphthalene | 2.0 mmol, 300 μL | IC1=CC2=CC=CC=C2C=C1 | C10H7I
reactant | 3,4-dihydroxy-5-[(4-phenyl)-3-butynyl]-2(5H)-furanone | OC=1C(OC(C1O)CCC#CC1=CC=CC=C1)=O | C14H12O4
product | 3,4-dihydroxy-5-[4-(2-naphthyl)-3-butynyl]-2(5H)-furanone | 230 mg, 75% | OC=1C(OC(C1O)CCC#CC1=CC2=CC=CC=C2C=C1)=O | C18H14O4
